US07842710B2
44 g (0.188 mol) 1-[1-(isopropylthio)ethyl]-2-nitrobenzene (VII-1) are dissolved in 250 ml ethanol, mixed with 3 g Raney nickel and hydrogenated in the autoclave for 6 hours at room temperature with 3 bar of hydrogen. After 6 hours another 3 g Raney nickel are added and hydrogenation is continued for another 16 hours at room temperature with 3 bar hydrogen. The catalyst is then removed by filtration and the solvent removed under vacuum. The crude product is purified by column chromatography (silica gel, 3:1 hexane/methyl t-butyl ether). 32 g (97.3% purity by HPLC, 84.4% theoretical yield) of 2-[1-(isopropylthio)ethyl]aniline are obtained as a yellow oil [logP (pH 2.3)=2.45].

reactant | 1-[1-(isopropylthio)ethyl]-2-nitrobenzene | 0.188 mol, 44 g | C(C)(C)SC(C)C1=C(C=CC=C1)[N+](=O)[O-] | C11H15NO2S
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | Raney nickel | 3 g | [Ni] | Ni
catalyst | Raney nickel | 3 g | [Ni] | Ni
product | 2-[1-(isopropylthio)ethyl]aniline | 32 g | C(C)(C)SC(C)C1=C(N)C=CC=C1 | C11H17NS
